US07253286B2
4-(4-Nitrophenoxy)-7-oxo-7,8-dihydro[1,8]naphthyridine
Ethyl(E)-3-[2-amino-4-(4-nitrophenoxy)-3-pyridyl]-2-propenoate (350 mg), 2′-acetonaphthone (50 mg) and methanol (80 ml) were irradiated for 4 hours while stirring, and the precipitated solid was filtered out to obtain 156 mg of a light yellow solid.

reactant | Ethyl(E)-3-[2-amino-4-(4-nitrophenoxy)-3-pyridyl]-2-propenoate | 350 mg | NC1=NC=CC(=C1/C=C/C(=O)OCC)OC1=CC=C(C=C1)[N+](=O)[O-] | C16H15N3O5
reactant | 2′-acetonaphthone | 50 mg | C(C)(=O)C1=CC2=CC=CC=C2C=C1 | C12H10O
solvent | methanol | 80 ml | CO | CH4O
product | 4-(4-Nitrophenoxy)-7-oxo-7,8-dihydro[1,8]naphthyridine | 156 mg | [N+](=O)([O-])C1=CC=C(OC2=CC=NC=3NC(C=CC23)=O)C=C1 | C14H9N3O4
